US08026234B2
2-Chloro-9-cyclohexyl-7-fluoro-5,7-dimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one:
To a solution of 2-chloro-9-cyclohexyl-7-fluoro-7-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (313 mg, 2.85 mmol) in 10 mL of DMA was added sodium hydride (60% dispersion in mineral oil, 44 mg, 1.1 mmol) at 0° C., followed by the dropwise addition of methyl iodide (0.07 mL, 1.1 mmol). The reaction mixture was warmed up to rt and stirred for 1 h. The whole was poured into ice-water, extracted with ethyl acetate. The organic layer was washed with brine and dried over Na2SO4. The solution was concentrated in vacuo and used for next step reaction (330 mg). [M+H] calc'd for C15H20ClFN4O, 327. found 327.

reactant | 2-chloro-9-cyclohexyl-7-fluoro-7-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 2.85 mmol, 313 mg | ClC=1N=CC2=C(N(CC(C(N2)=O)(C)F)C2CCCCC2)N1 | C14H18ClFN4O
reactant | sodium hydride | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | methyl iodide | 1.1 mmol, 0.07 mL | CI | CH3I
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 2-Chloro-9-cyclohexyl-7-fluoro-5,7-dimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C)F)C2CCCCC2)N1 | C15H20ClFN4O
